US06897231B2
B. 5-[3-(4-Fluorophenyl)-1H-indazol-5-yl]-4H-1,2,4-triazole-3-yl-amine
To a solution of N-amino[3-(4-fluorophenyl)(1H-indazol-5-yl)]carboxamide (440 mg, 1.6 mmol) and 3,5-dimethylpyrazole (321 mg, 1.6 mmol) in water (˜15 mL) was added triethylamine (0.21 mL, 1.6 mmol). The reaction was heated to reflux overnight. The solvent was removed and the crude reaction mixture was taken up in butanol with molecular sieves. The reaction was heated to reflux overnight. The molecular sieves were removed and the solution concentrated. The crude mixture was purified by preparative HPLC. The material was taken up in ethyl acetate and washed with aqueous sodium bicarbonate. The organic layer was dried with magnesium sulfate, filtered and concentrated to yield the title compound (0.022 g, 4.6% yield). 1H NMR (DMSO-d6) δ 13.5 (s, 1H), 12.0 (s, 1H), 8.5 (s, 1H), 8.0 (m, 3H), 7.7 (d, 1H), 7.4 (m, 2H), 6.1 (s, 2H), ES-MS (m/z) 295 [M+1]+.

reactant | N-amino[3-(4-fluorophenyl)(1H-indazol-5-yl)]carboxamide | 1.6 mmol, 440 mg | NNC(=O)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C14H11FN4O
reactant | 3,5-dimethylpyrazole | 1.6 mmol, 321 mg | CC1=NNC(=C1)C | C5H8N2
reactant | triethylamine | 1.6 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
solvent | water | ˜15 mL | O | H2O
solvent | butanol | C(CCC)O | C4H10O
product | 5-[3-(4-Fluorophenyl)-1H-indazol-5-yl]-4H-1,2,4-triazole-3-yl-amine | 0.022 g, 4.6% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1NC(=NN1)N | C15H11FN6
